US08283353B2
3′-fluoro-4′-[(4-{trans-4-[1-(1-hydroxycyclobutyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
To a mixture of 4′-[(4-{4-[1-(1-acetylcyclobutyl)ethoxy]cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl}-3′-fluorobiphenyl-2-carbonitrile (11 g), 30% hydrogen peroxide (157 mL) and chloroform (150 mL) was gradually added dropwise trifluoroacetic acid anhydride (105 mL), and the mixture was stirred at 60° C. for 24 hr and then at room temperature for 40 hr. Saturated aqueous sodium hydrogen carbonate solution and aqueous sodium thiosulfate solution were gradually added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was mixed with tetrahydrofuran (100 mL), methanol (100 mL) and 1 M aqueous sodium hydroxide solution (100 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was neutralized with 1 M hydrochloric acid. After evaporation of the solvent under reduced pressure, the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (1.3 g, 12%).

reactant | 4′-[(4-{4-[1-(1-acetylcyclobutyl)ethoxy]cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl}-3′-fluorobiphenyl-2-carbonitrile | 11 g | C(C)(=O)C1(CCC1)C(C)OC1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)F)CCC)N=CN2 | C36H40FN5O3
reactant | hydrogen peroxide | 157 mL | OO | H2O2
reactant | trifluoroacetic acid anhydride | 105 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 3′-fluoro-4′-[(4-{trans-4-[1-(1-hydroxycyclobutyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 1.3 g, 12% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C)C2(CCC2)O)=O)C=2C(=CC=CC2)C#N | C34H38FN5O3
